US06353111B1
A solution of triphenylphosphine (1.23 g, 4.69 mmol) in methylene chloride (15 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (830 mg, 4.69 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of (E)-3-cyclohexyl-2-(3-chloro-4-((methylene)-methylsulfonyl)-phenyl)-acrylic acid (837 mg, 2.34 mmol) in methylene chloride (6 mL). The reaction mixture was stirred for 1 5 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (702 mg, 7.02 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (70 mL) and a 1N aqueous hydrochloric acid solution (50 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were successively washed with a 1N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), and a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 5/1 to 3/2 hexanes/ethyl acetate) afforded the pure (E)-2-(3-chloro-4-methanesulfonylmethyl-phenyl)-3-cyclohexyl-N-thiazol-2-yl-acrylamide (596 mg, 58%) as a white solid: mp 218-221° C.; EI-HRMS m/e calcd for C20H23Cl N2O3S2 (M+) 438.0839, found 438.0834.

reactant | triphenylphosphine | 4.69 mmol, 1.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 4.69 mmol, 830 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclohexyl-2-(3-chloro-4-((methylene)-methylsulfonyl)-phenyl)-acrylic acid | 2.34 mmol, 837 mg | C1(CCCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)S(=O)(=O)C=C)Cl | C17H19ClO4S
reactant | 2-aminothiazole | 7.02 mmol, 702 mg | NC=1SC=CN1 | C3H4N2S
reactant | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-(3-chloro-4-methanesulfonylmethyl-phenyl)-3-cyclohexyl-N-thiazol-2-yl-acrylamide | 596 mg, 58% | ClC=1C=C(C=CC1CS(=O)(=O)C)/C(/C(=O)NC=1SC=CN1)=C\C1CCCCC1 | C20H23ClN2O3S2
